US07491836B2
10 mmol palmityl alcohol and 20 mmol pyridine are dissolved in 100 ml dry dichloromethane. 10 mmol toluene4-sulphonyl chloride is slowly added and the mixture is heated to 40° C. with stirring for 1 hour. The reaction is cooled to room temperature and 25 ml cold water is added to stop the reaction. The mixture is washed with 3×50 ml cold, 1% aqueous sulfuric acid to remove the pyridine followed by 3×25 ml cold water and evaporation to yield palmityl toluene-4-sulfonate.

reactant | palmityl alcohol | 10 mmol | C(CCCCCCCCCCCCCCC)O | C16H34O
reactant | pyridine | 20 mmol | N1=CC=CC=C1 | C5H5N
reactant | toluene4-sulphonyl chloride | 10 mmol | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | 25 ml | O | H2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | palmityl toluene-4-sulfonate | C1(=CC=C(C=C1)S(=O)(=O)OCCCCCCCCCCCCCCCC)C | C23H40O3S
